US05852030
3-(N-cyclopropylmethylcarbamoyl)phenylhydrazine
In 5 ml of ethyl acetate, 1.92 g of 1-tert-butoxycarbonyl-2-[3-(N-cyclopropylmethylcarbamoyl)phenyl]hydrazine was dissolved and about 12 ml of 2N hydrochloric acid/ethyl acetate solution was added to the solution. The resulting suspension was stirred at room temperature for 4 hours. To the reaction mixture, 15 ml of aqueous 2N ammonia solution was added and the resultant was extracted with 20 ml of ethyl acetate. The extract was dried and concentrated to obtain 1.28 g of crude crystals. The crude crystals were recrystallized from ethyl acetate-hexane to obtain 1.20 g (yield 93%) of the captioned compound.

reactant | 1-tert-butoxycarbonyl-2-[3-(N-cyclopropylmethylcarbamoyl)phenyl]hydrazine | 1.92 g | C(C)(C)(C)OC(=O)NNC1=CC(=CC=C1)C(NCC1CC1)=O | C16H23N3O3
reactant | hydrochloric acid ethyl acetate | 2N, about 12 ml | Cl.C(C)(=O)OCC
reactant | ammonia | 2N | N | H3N
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(N-cyclopropylmethylcarbamoyl)phenylhydrazine | 1.20 g, yield 93% | C1(CC1)CNC(=O)C=1C=C(C=CC1)NN | C11H15N3O
